US06087380
1-Methyl-2-[N-(4-amidino-2-methoxy-phenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyano-2-methoxy-phenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 67% of theory, C28H31N7O4 (529.6) Rf value: 0.16 (silica gel; dichloromethane/ethanol=4:1) EKA mass spectrum: (M+H)+ =530

reactant | 1-methyl-2-[N-(4-cyano-2-methoxy-phenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=C(C=C(C=C2)C#N)OC)C)C=C1)CCC(=O)OCC | C28H28N6O4
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-Methyl-2-[N-(4-amidino-2-methoxy-phenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 67% | Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=C(C=C(C=C2)C(N)=N)OC)C)C=C1)CCC(=O)OCC | InChI=1S/C28H31N7O4.ClH/c1-4-39-26(36)12-14-35(24-7-5-6-13-31-24)28(37)19-9-11-22-21(15-19)33-25(34(22)2)17-32-20-10-8-18(27(29)30)16-23(20)38-3;/h5-11,13,15-16,32H,4,12,14,17H2,1-3H3,(H3,29,30);1H
